US05976759
Using 8 g of poly(p-hydroxystyrene) obtained according to (1) of Preparation Example 6 and 2.2 g of methylvinyl ether, the procedure of (3) of Preparation Example 1 was carried out for reaction and after-treatments to give 8.6 g of poly(p-1-methoxyethoxystyrene/p-hydroxystyrene) as faintly brown-tinted powdery crystal. P-1-methoxyethoxystyrene unit/p-hydroxystyrene unit molar ratio in the polymer≈4:6 (1H NMR). Mw≈18,000; Mw/Mn=1.89 (GPC with polystyrene calibration).

reactant | poly(p-hydroxystyrene) | 8 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | methylvinyl ether | 2.2 g | COC=C | C3H6O
product | p-1-methoxyethoxystyrene p-hydroxystyrene | COC(C)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C11H14O2.C8H8O/c1-4-10-5-7-11(8-6-10)13-9(2)12-3;1-2-7-3-5-8(9)6-4-7/h4-9H,1H2,2-3H3;2-6,9H,1H2
